US09370522B2
The product was obtained via a Suzuki coupling reaction using the method previously shown in Example 20, Step 3, using methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (100 mg, 0.29 mmol, 1.00 equiv) and 4-chlorophenylboronic acid (87 mg, 0.56 mmol, 1.50 equiv) as reactants. Purification via silica gel column (dichloromethane/methanol (5:1)) afforded 43 mg (37%) of 3-(4-chlorophenyl)-2-phenylquinoxaline-6-carboxylic acid as a light yellow solid.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.29 mmol, 100 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | 4-chlorophenylboronic acid | 0.56 mmol, 87 mg, 1.50 equiv | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
product | 3-(4-chlorophenyl)-2-phenylquinoxaline-6-carboxylic acid | 43 mg, 37% | ClC1=CC=C(C=C1)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1 | C21H13ClN2O2
